2187-10-30 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt given 4 bags FFP for INR reversal given need for IV access. Pt had
   one PIV, blown 2^nd PIV. After received FFP, patient desturated to mid
   80s which improved to low 90s on 5L NC. CXR was obtained which was c/w
   pulmonary edema. She was given Lasix 60 mg IV with little response.
   Lasix 120 given, also with little effect. Patient continued to
   desaturate to mid 80s on 5 L and was reporting exhaustion. She was
   intubated for airway protection and hypoxemic respiratory failure. Just
   after intubation, patient desatted to 60s-70s. ETT pulled back d/t
   concern for right main stem bronchus intubation. O2 sats subsequently
   improved. NGT also placed with return of 400cc coffee ground appearing
   drak guaiac pos fluid. RIJ placed at 8am under ultrasound guidance.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2187-10-30**] 02:15 AM
   Furosemide (Lasix) - [**2187-10-30**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-30**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 106 (88 - 106) bpm
   BP: 103/56(67) {89/37(56) - 113/64(82)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 57 Inch
           Total In:
                                                                     38 mL
                                                                  1,866 mL
   PO:
           TF:
   IVF:
                                                                     38 mL
                                                                    763 mL
   Blood products:
   1,053 mL
   Total out:
                                                                    500 mL
                                                                    250 mL
   Urine:
                                                                    500 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -463 mL
                                                                  1,616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 92%
   ABG: 7.42/19/51/12/-8
             7.25/34/35/16 (at time of right main stem intubation)
   Physical Examination
   Gen: jaundiced, intubated, sedated
   HEENT: scleral icterus, OP clear, EOMI, Pupils 4 to 3mm
   Neck: No JVD, no thyromegaly, no LAD
   Cor: RRR no m/r/g, exagerated heart sounds
   Pulm: CTAB
   Abd: ileostomy, +BS, tender to palpation most in RUQ, no splenomegaly.
   Extrem: clubbing of fingers
   Skin: jaundice most prominently in digits, fine reticular [**Doctor Last Name 170**] rash
   over body, some petchiae seen most prominently in distal extremities,
   under BP cuff.
   Neuro: intubated, sedated, responds to voice
   Labs / Radiology
   185 K/uL
   11.5 g/dL
   176 mg/dL
   3.4 mg/dL
   12 mEq/L
   4.0 mEq/L
   47 mg/dL
   91 mEq/L
   116 mEq/L
   32.2 %
   10.0 K/uL
        [image002.jpg] RUQ US: patent hepatic and portal veins. Could not
   visualize right hepatic a well, likely technical. Kidneys appearance
   c/w medical renal disease
                             [**2187-10-30**]  12:01 AM
                             [**2187-10-30**]  04:34 AM
   WBC
   10.0
   Hct
   32.2
   Plt
   185
   Cr
   3.4
   TCO2
   13
   Glucose
   35
   176
   Other labs: PT / PTT / INR:49.1/67.9/5.6, ALT / AST:9582/[**Numeric Identifier 1266**], Alk
   Phos / T Bili:271/2.9, Amylase / Lipase:315/83, Differential-Neuts:93.1
   %, Band:0.0 %, Lymph:4.3 %, Mono:2.0 %, Eos:0.6 %, Lactic Acid:3.6
   mmol/L, Albumin:2.8 g/dL, LDH:[**Numeric Identifier 1267**] IU/L, Ca++:7.3 mg/dL, Mg++:1.9
   mg/dL, PO4:6.2 mg/dL   Tylenol 10.2->8.0  (Tylenol 21 at admission to
   OSH)
   Assessment and Plan
   Pt is a 52F with OCD (stable recently, but h/o OD, anorexia and alcohol
   use in past), ileostomy admitted with acute fulminant hepatic failure
   and acute renal failure.
   .
   # Liver Failure:  Most likely etiology Tylenol overdose given elevated
   level at OSH, persistent elevated level here. Started on Mucomyst (PO
   at OSH, IV here). [**Month (only) 8**] also have had other precipitating factors
   including other medication effects (simvastatin, bactrim), vascular,
   infectious.  Given fulminant nature of hepatic failure will need
   evaluation for possible transplant.
   - Liver and transplant following
   - F/u labs, viral studies, AI w/u
   - mucomyst IV protocol
   - monitor finger sticks
   - Tylenol level Q hour until peak determined. Peak determined so will
   increase interval of checks. Should continue to trend down
   - Will need to lighten sedation to enable serial neuro exams to assess
   mental status for encephalopathy as well as cerebral edema given
   increased risk of edema with acute hepatic failure
   - Trend coags
   - Will start Vanc/Zosyn per hepatology recs, low threshold for
   antibiotic given increased risk of infection
   .
   # Transplant Workup:
   - Surgery transplant following
   - Monitoring mental status now difficult [**3-3**] intubation and sedation.
   Lighten sedation to enable serial neuron exams
   - EKG, CXR, Echo
   - Antibody screen, etc
   - HIV screen
   .
   # ARF: Likely secondary to liver failure, intrinsic renal etiology.
   Hepatorenal syndrome less likely given high urine sodium and acute
   nature. feNa 7.6%
   - Renal Following, appreciate recs
   - Fena of 7.6%
   - examine urine lytes TID
   - CK
   - urine eos neg
   - Follow  CVP to assess fluid status, determine need for HD given
   declining urine output
   - Pt may require HD vs. CVVH depending on fluid status, oxygen sats,
   acid-base disturbances
   .
   # Hypoglycemia: secondary to liver failure. Follow FS. On D5 IVF
   .
   # Hyponatremia: Pt unable to concentrate urine likely [**3-3**] ATN.  Need to
   replete slowly given risk of cerebral edema.
   - Follow
   - Continue IVF per renal recs
   - repeat urine lytes QID
   .
   # Acid base: combined met acidosis + resp alkalosis.  Gap acidosis from
   ARF, lactic acidosis. Gap closing since admission.   Liver failure
   likely causing resp alkalosis as well as respiratory distress, dyspnea
   with increasing pulmonary edema.
   .
   # Hypoxia: Most likely secondary to volume overload. Improved now that
   ventilated. Will check ABG on current vent settings, adjust accordingly
   .
   # Psych: Hold SSRIs. Per renal, SSRIs can worsen hyponatremia
   .
   # Hypercholesterolemia: Hold statin.
   .
   # Access: PIV, R IJ TLC
   # Code: FULL
   # Communication: With patient and husband.
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-10-29**] 11:20 PM
   20 Gauge - [**2187-10-30**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-10-30 09:19:00 Physician Attending Progress Note
Chief Complaint: hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2187-10-30**] 06:42 AM
   - CVL placed, CVP 4
    - Hepatology and Renal Consultations
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2187-10-30**] 02:15 AM
   Furosemide (Lasix) - [**2187-10-30**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-30**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 103 (88 - 106) bpm
   BP: 114/65(76) {89/34(51) - 144/78(94)} mmHg
   RR: 15 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 57 Inch
           Total In:
                                                                     38 mL
                                                                  2,191 mL
   PO:
           TF:
   IVF:
                                                                     38 mL
                                                                  1,088 mL
   Blood products:
   1,053 mL
   Total out:
                                                                    500 mL
                                                                    700 mL
   Urine:
                                                                    500 mL
                                                                    400 mL
   NG:
   300 mL
   Stool:
   Drains:
   Balance:
                                                                   -463 mL
                                                                  1,491 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 603 (0 - 603) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.25/34/35/13/-12
   Ve: 14.1 L/min
   PaO2 / FiO2: 35
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: 2+ pulses
   Respiratory / Chest: (Breath Sounds: Crackles both bases
   Extremities: Right: Trace, Left: Trace edema
   Skin:  Warm, scattered petechia
   Neurologic: Responds to verbal and tactile stimuli
   Labs / Radiology
   10.9 g/dL
   187 K/uL
   176 mg/dL
   3.4 mg/dL
   13 mEq/L
   4.4 mEq/L
   48 mg/dL
   87 mEq/L
   120 mEq/L
   31.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2187-10-30**]  12:01 AM
                             [**2187-10-30**]  03:55 AM
                             [**2187-10-30**]  04:34 AM
                             [**2187-10-30**]  06:49 AM
                             [**2187-10-30**]  07:23 AM
   WBC
   10.0
   8.5
   Hct
   32.2
   31.1
   Plt
   185
   187
   Cr
   3.4
   3.4
   TCO2
   13
   16
   Glucose
   35
   193
   176
   Other labs: PT / PTT / INR:24.6/49.4/2.4, CK / CKMB / Troponin-T:360//,
   ALT / AST:5590/9840, Alk Phos / T Bili:194/2.3, Amylase /
   Lipase:315/83, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:8.0 %,
   Mono:1.0 %, Eos:0.8 %, Lactic Acid:3.6 mmol/L, Albumin:2.8 g/dL,
   LDH:8340 IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:5.9 mg/dL
   Imaging: CXR:
   Assessment and Plan
   52 yo female admit with fulminant hepatic failure likely due to Tylenol
   OD but also continuing work up for viral and medication related.
   1. Hepatic Failure- concern for tylenol ingestion, on NAC, -Viral
   studies (including HIV)
   -Abdominal ultrasound - patent portal veins
   -Pre-transplant evaluation (CXR, ECG, ECHO)
   -Dr [**Last Name (STitle) 1296**] and [**Doctor Last Name 356**] aware, Dr. [**Last Name (STitle) 1297**] of Tx Surgery has seen and
   examined pt
   - NeuroSurg consult re possible intra cranial pressure monitoring. Head
   CT
   2. Acute Renal Failure- in setting of FHF and possible Tylenol
   toxicity, getting volume challenge, no acute indications for HD at
   present but Renal aware and will consider CVVH
   3. Coagulopathy-
   -Patient with INR >4 at transfer to have concern for significant
   bleeding risk
   -WIll get head CT with significant headache and concern for cerebral
   edema or bleed
   4. HypoNa: NAC is in D5W and now concentrating, per Renal and Tx
   Surgery will start 3% NS and trend Na q2
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-10-29**] 11:20 PM
   20 Gauge - [**2187-10-30**] 02:45 AM
   Prophylaxis:
   DVT:boots
   Stress ulcer: ppi
   VAP: hob chlorhex
   Communication:  husband
   [**Name (NI) 156**] status: Full code
   Disposition : ICU
   Total time spent: 80 minutes
   Patient is critically ill

2187-11-14 18:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yof acute hepatic failure, initially admitted to MICU service,
   intubated, then transferred to Transplant Surgical service for
   evaluation of possible need for liver transplant.
   Since transfer to Transplant Surgery, overall improved liver function.
   Intracranial pressure initially elevated (up to 30 cm H2), but
   improved, and bolt removed [**2187-11-5**].  Hospital course complicated by
   ARDS, renal failure requiring HD, intracranial hemorrhage at ICP site,
   drug rash (all antimicrobials d/c'd [**2187-11-10**]), and persistent fevers.
   Transplant avoided.  Extubated yesterday, complicated by hypoxemia -->
   reintubated.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2187-11-13**] 10:00 AM
   Mechanically ventilated via ETT.
   Awake, tracks with eyes, but does not attempt to speak or communicate.
   Requiring hemodialysis.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Liver Failure;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-11-12**] 10:00 PM
   Fluconazole - [**2187-11-13**] 07:38 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2187-11-14**] 06:00 AM
   Pantoprazole (Protonix) - [**2187-11-14**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2187-11-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT;
   eschar lower lip
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, ileostomy
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-14**] 06:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.5
   HR: 104 (97 - 123) bpm
   BP: 149/77(101) {125/68(87) - 150/77(101)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 37 kg
   Height: 57 Inch
   CVP: 10 (1 - 322)mmHg
   Total In:
                                                                  1,909 mL
                                                                  1,635 mL
   PO:
   TF:
                                                                  1,459 mL
                                                                  1,499 mL
   IVF:
                                                                    450 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  4,596 mL
                                                                  1,149 mL
   Urine:
                                                                    856 mL
                                                                  1,049 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,687 mL
                                                                    486 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (0 - 543) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/29/143/16/-4
   Ve: 13 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Tender: , No(t) Obese, Thin
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   245 K/uL
   106 mg/dL
   4.4 mg/dL
   16 mEq/L
   4.3 mEq/L
   83 mg/dL
   103 mEq/L
   134 mEq/L
   25.4 %
   11.3 K/uL
        [image002.jpg]
                            [**2187-11-12**]  12:53 PM
                            [**2187-11-12**]  05:17 PM
                            [**2187-11-13**]  03:14 AM
                            [**2187-11-13**]  09:35 AM
                            [**2187-11-13**]  10:30 AM
                            [**2187-11-13**]  11:47 AM
                            [**2187-11-13**]  01:11 PM
                            [**2187-11-13**]  10:00 PM
                            [**2187-11-14**]  04:15 AM
                            [**2187-11-14**]  03:11 PM
   WBC
   13.3
   11.9
   11.3
   Hct
   30.3
   27.0
   25.4
   Plt
   172
   224
   245
   Cr
   2.6
   2.9
   4.0
   4.4
   TCO2
   22
   21
   23
   22
   18
   19
   Glucose
   95
   107
   123
   104
   106
   Other labs: PT / PTT / INR:14.3/37.2/1.2, CK / CKMB / Troponin-T:360//,
   ALT / AST:94/54, Alk Phos / T Bili:368/3.1, Amylase / Lipase:112/397,
   Differential-Neuts:90.0 %, Band:5.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0
   %, D-dimer:4785 ng/mL, Fibrinogen:608 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.6 g/dL, LDH:400 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   Fulminant hepatic failure complicated by respiratory failure, renal
   failure, fevers.
   RESPIRATORY FAILURE -- persistent, multifactorial.  Suspect component
   of ARDS, volume overload (CHF), pneumonia, encephalopathy.  Plan
   continue mechanical ventilation, monitor ABG, maintain SaO2 >90%
   HEPATIC FAILURE -- resolving, tranplantation not indicated.  Attributed
   to Sulfamethoxazole-Trimethoprim reaction, possible acetominophen, and
   possible contribution of EtOH.  Continue to monitor.  Hepatology
   service to f/u.
   RENAL FAILURE -- complication of acute fulminant hepatic failure,
   probable ATN (hypovolemia, vasopressors).  Requiring dialysis.  Recent
   creatinine rise on dialysis somewhat concerning.
   FEVERS -- uncertain etiology, but concerns for active infection (5%
   bandemia recently)  include VAP (bilateral lower lobe consolidation by
   CT scan), line-related infection, hepatobiliary infection (ex.
   acalculous choleystitis), CNS infection (ICP site).  Repeat RUQ US.
   Bronchoscopy with protected brush.  Hold empirical antimicrobials
   unless hemodynamic instability.
   NUTRITIONAL SUPPORT -- TF @ goal.
   FLUIDS -- net volume overloaded in context of resussication.  Plan to
   net diurese (lasix and dialysis).
   CNS hematoma -- right frontal, bolt site.  Plan for re-imaging to
   assess progress or regression.  Plan head CT w/o contrast.
   ICU Care
   Nutrition:
   Nutren Renal ([**4-3**]) - [**2187-11-14**] 04:26 AM 37 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-31**] 10:00 AM
   Multi Lumen - [**2187-11-3**] 09:05 AM
   Arterial Line - [**2187-11-4**] 06:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2187-11-15 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2187-11-14**] 01:00 PM
 PAN CULTURE - At [**2187-11-14**] 07:45 PM
 FEVER - 101.4
F - [**2187-11-14**] 08:00 PM
   Underwent Non-Contast CT of Head
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Liver Failure;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-11-12**] 10:00 PM
   Fluconazole - [**2187-11-13**] 07:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-11-14**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2187-11-15**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-15**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38
C (100.4
   HR: 111 (97 - 126) bpm
   BP: 127/69(91) {103/64(80) - 164/80(104)} mmHg
   RR: 21 (21 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 39 kg (admission): 37 kg
   Height: 57 Inch
    CVP: 6 (2 - 15)mmHg
   Total In:
                                                                  1,881 mL
                                                                    223 mL
   PO:
   TF:
                                                                  1,744 mL
                                                                    223 mL
   IVF:
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,239 mL
                                                                  1,045 mL
   Urine:
                                                                  1,689 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -358 mL
                                                                   -822 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 465 (451 - 515) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.40/28/158/17/-5
   Ve: 9.7 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Rash: , Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed, tracks with her eyes
   Labs / Radiology
   293 K/uL
   8.5 g/dL
   116 mg/dL
   4.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   93 mg/dL
   103 mEq/L
   135 mEq/L
   24.8 %
   9.1 K/uL
        [image002.jpg]
                            [**2187-11-13**]  03:14 AM
                            [**2187-11-13**]  09:35 AM
                            [**2187-11-13**]  10:30 AM
                            [**2187-11-13**]  11:47 AM
                            [**2187-11-13**]  01:11 PM
                            [**2187-11-13**]  10:00 PM
                            [**2187-11-14**]  04:15 AM
                            [**2187-11-14**]  03:11 PM
                            [**2187-11-15**]  03:02 AM
                            [**2187-11-15**]  03:29 AM
   WBC
   13.3
   11.9
   11.3
   9.1
   Hct
   30.3
   27.0
   25.4
   24.8
   Plt
   172
   224
   245
   293
   Cr
   2.9
   4.0
   4.4
   4.9
   TCO2
   21
   23
   22
   18
   19
   18
   Glucose
   107
   123
   104
   106
   116
   Other labs: PT / PTT / INR:14.5/37.0/1.3, CK / CKMB / Troponin-T:360//,
   ALT / AST:86/44, Alk Phos / T Bili:356/2.8, Amylase / Lipase:112/397,
   Differential-Neuts:79.3 %, Band:5.0 %, Lymph:13.1 %, Mono:2.2 %,
   Eos:5.1 %, D-dimer:4785 ng/mL, Fibrinogen:608 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.6 g/dL, LDH:400 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
   Assessment and Plan: Pt is a 52F with OCD (stable recently, but h/o OD,
   anorexia and alcohol use in past), ileostomy, with resolving fulminant
   liver failure, renal failure, hypoxic respiratory failure and
   intracranial hemorrhage.
   .
   # Respiratory failure: A-a gradient of 148, PA02/Fio2 267 c/w acute
   lung injury. thought to be secondary to ARDS but CT now with evidence
   of consolidation concerning for PNA.
   - diuresis: lasix 80mg IV x 1
   - sputum cultures
   - bronch in am
   - obtain CBC with diff
   - defer abx unless clinical picture changes, will avoid Zosyn given ?
   of drug rash
   .
   # Renal Failure: Cr on admission 3.4 likely due to tylenol toxicity vs
   hepatorenal vs ATN, followed by renal team and has had CVVH; Cr now
   4.4. last dialyzed on [**11-13**]. Urine output 600 today. Worsening
   creatinine for unclear reasons. FEna 16% and FeUrea 75% suggesting that
   this is not pre-renal or due to overdiuresis. Consider AIN in the
   setting of fever and rash.
   - appreciate renal reccs
   - obtain urine eos
   .
   # Fevers: patient spike fever to 102 on [**11-7**] and 101 [**11-8**], pan culture
   negative. has had low grade temps 99.9-100.8 since [**11-9**], with tmax
   101.4 today.  WBC trending down from peak 25 on [**11-10**] -> 11 today, +
   left shift with 90% segs. CT chest now being read as consolidation
   concerning for PNA, but patient's WBC has actually trended down. Vanc
   and Zosyn dc'ed on [**11-9**]. Sources include UTI, lines, PNA, acalculus
   cholecystitis and, given recent intracranial instrumentation,
   meningitis or brain abcess. It is also possible that this is a drug
   fever in the setting of a rash.
   - hold of on abx
   - send blood cultures, UA, urine Cx, c.diff, sputum cx
   - bronch in am
   - trend CBC and obtain diff
   - head CT to evaluate for mass effect, if no mass effect consider LP;
   can not obtain CT with contrast or MRI with gad given ARF
   .
   # Metabolic acidosis with resp compensation: ph 7.41,pCO2 28, bicarb
   16. Per winter's formula, expected pC0 is 30 indicated just slight over
   complensation. Metabolic acidosis is likely [**3-3**] renal failure and
   uremia. Pt has a small gap of 4; lactate nl, possibly [**3-3**] uremia.
   .
   # Hepatic Failure: Resolving. Thought to be secondary to tylenol vs
   bactrim. Peak AST 9582, ALT [**Numeric Identifier 1266**], bili 6.9, INR 5.6, PTT 129 which
   have now improved to PTT 36, INR 1.2, ALt 94, AST 54, bilirubin 3.1.
   The patient was evaluated by transplant but now no longer requires
   liver transplant.
   - follow LFT's
   .
   # Right frontal subcortical hemorrhage/ Edema: [**3-3**] intracranial bolt
   and coagulopathy. Bolt removed on [**2187-11-5**]. Edema tx'd with mannitol.
   Size of hemorrhage remains stable.
   - on keppra for 10 day course starting [**11-8**]
   - keep PLT>100 per neurosurgery
   - repeat head CT
   .
   # Thrombocytopenia: reveiew by hematology and thought to be secondary
   to alloimmunization and possible hypersplenism
   - f/u with blood bank re HLA matching
   .
   # Drug Rash: drug rash per derm thought to be most likely [**3-3**] Zosyn but
   Vanc or fluconazole also possible
   .
   # Anemia: has been running 25-30, iron/ TIBC ratio 17% indicating mild
   iron deficiency.
   - follow HCT's
   - iron supplements
   .
   # Access: CVL-RIJ, dialysis line in femoral vein, A line,
   .
   # FEN: replete lytes prn, tube feeds via dobhoff
   # PPx: subq heparin, lansoprazole
   # Access: PIV
   # Code: presumed full
   # Communication: With husband
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 1465**] Renal ([**4-3**]) - [**2187-11-14**] 04:26 AM 37 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-31**] 10:00 AM
   Multi Lumen - [**2187-11-3**] 09:05 AM
   Arterial Line - [**2187-11-4**] 06:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-15 09:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2187-11-14**] 01:00 PM
 PAN CULTURE - At [**2187-11-14**] 07:45 PM
 FEVER - 101.4
F - [**2187-11-14**] 08:00 PM
   Remains intubated mechanically ventilated.
   Awake, but non-communicative.  Nodded appropriately to simple question
   this AM, but not consistent.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Liver Failure;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-11-12**] 10:00 PM
   Fluconazole - [**2187-11-13**] 07:38 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, Ileostomy
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-15**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.3
   HR: 117 (97 - 126) bpm
   BP: 129/69(92) {103/64(80) - 164/80(104)} mmHg
   RR: 25 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 39 kg (admission): 37 kg
   Height: 57 Inch
   CVP: 9 (2 - 15)mmHg
   Total In:
                                                                  1,881 mL
                                                                    407 mL
   PO:
   TF:
                                                                  1,744 mL
                                                                    337 mL
   IVF:
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,239 mL
                                                                  1,620 mL
   Urine:
                                                                  1,689 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -358 mL
                                                                 -1,213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 528 (451 - 528) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.40/28/158/17/-5
   Ve: 9.5 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, RLQ ileostomy
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Moves all 4
   extremities, but not consistently to command, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal, Eyes track; non-communicative
   Labs / Radiology
   8.5 g/dL
   293 K/uL
   116 mg/dL
   4.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   93 mg/dL
   103 mEq/L
   135 mEq/L
   24.8 %
   9.1 K/uL
        [image002.jpg]
                            [**2187-11-13**]  03:14 AM
                            [**2187-11-13**]  09:35 AM
                            [**2187-11-13**]  10:30 AM
                            [**2187-11-13**]  11:47 AM
                            [**2187-11-13**]  01:11 PM
                            [**2187-11-13**]  10:00 PM
                            [**2187-11-14**]  04:15 AM
                            [**2187-11-14**]  03:11 PM
                            [**2187-11-15**]  03:02 AM
                            [**2187-11-15**]  03:29 AM
   WBC
   13.3
   11.9
   11.3
   9.1
   Hct
   30.3
   27.0
   25.4
   24.8
   Plt
   172
   224
   245
   293
   Cr
   2.9
   4.0
   4.4
   4.9
   TCO2
   21
   23
   22
   18
   19
   18
   Glucose
   107
   123
   104
   106
   116
   Other labs: PT / PTT / INR:14.5/37.0/1.3, CK / CKMB / Troponin-T:360//,
   ALT / AST:86/44, Alk Phos / T Bili:356/2.8, Amylase / Lipase:112/397,
   Differential-Neuts:79.3 %, Band:5.0 %, Lymph:13.1 %, Mono:2.2 %,
   Eos:5.1 %, D-dimer:4785 ng/mL, Fibrinogen:608 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.6 g/dL, LDH:400 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
   Respiratory failure, encephalopathy, s/p fulminant hepatic failure
   complicated by acute renal failure and persistent fevers.
   RESPIRATORY FAILURE --  multifactorial; evidence for diffuse alveolitis
   or fluid [pulmonary edema, cardiogenic (bilateral effusions) and/or
   non-cardiogenic --> at risk for ARDS, neurogenic pulmonary edema],
   pneumonia (bibasilar infiltrates).  Plan continue mechanical
   ventilation, net diuresis, monitor ABG.  Work towards SBT, follow RSBI.
   ACUTE RENAL FAILURE -- unclear [**Name2 (NI) 1815**], but may be ATN (also possible
   drug-related or AIN).  Non-oliguric; plan for continued net diuresis
   and dialysis as needed)
   NEUROLOGICAL STATUS -- poorly communicative.  Inconsistent responses
   (nods) [**Month (only) 8**] be consequence of increased intracranial pressure,
   encephalopathy.  Need to exclude
   FEVERS -- multiple possible sources, including VAP, line-related
   infection (esp. left SC catheter, left groind catheter), biliary
   infection (rising alk phos), pancreatitis (elevated amylase/lipase), or
   CNS infection.  Also consider drug-related fever.  Check WBC
   differential.  Bronchoscopy.  LP.  Would like to remove central lines,
   and resite dialysis catheter.
   NUTRITIONAL SUPPORT -- TF @ goal.
   HEPATIC FAILURE -- s/p fulminant failure, did not require liver
   transplant.
   ANEMIA -- ACD, phelebotomy.
   ICU Care
   Nutrition:
   Nutren Renal ([**4-3**]) - [**2187-11-14**] 04:26 AM 37 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-31**] 10:00 AM
   Multi Lumen - [**2187-11-3**] 09:05 AM
   Arterial Line - [**2187-11-4**] 06:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:   Updated medical condition with husband.
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2187-11-16 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -  LP, BAL, and bronchial brushings obtained.
   -  Febrile after bronchoscopy
 ARTERIAL LINE - STOP [**2187-11-15**] 04:04 PM
 BLOOD CULTURED - At [**2187-11-16**] 03:50 AM
   1 set from the left sc tlcl abd another set from the left femoral
   dialysis catheter.
   This am, ECG obtained with diffuse deep TWI. ECG obtained because these
   abnormalities were noted on tele.  Prior ECG from [**10-30**] did not show
   TWI.
   She denied CP, SOB this am
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Liver Failure;
   Last dose of Antibiotics:
   Fluconazole - [**2187-11-13**] 07:38 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-16**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.6
C (99.6
   HR: 96 (89 - 130) bpm
   BP: 112/62(75) {106/62(74) - 134/78(91)} mmHg
   RR: 17 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 39 kg (admission): 37 kg
   Height: 57 Inch
    CVP: 1 (-2 - 14)mmHg
   Total In:
                                                                    988 mL
                                                                    234 mL
   PO:
   TF:
                                                                    888 mL
                                                                    184 mL
   IVF:
   Blood products:
   Total out:
                                                                  5,615 mL
                                                                    415 mL
   Urine:
                                                                  1,765 mL
                                                                    265 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -4,627 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 433 (433 - 528) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Intubated. Thin, cachectic appearing woman laying
   in bed in NAD
   Eyes / Conjunctiva: PERRL, 3mm
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: DP/PT 2+ BL
   Respiratory / Chest: (Expansion: Symmetric), Coarse BS bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present. Ileostomy in place
   Extremities: Right: 2+, Left: 2+. Left femoral cath with oozing
   Skin:  Not assessed, Rash: , Jaundice.
   Neurologic: Tracks with eyes
   CSF: Neg; Blood cx no growth, BAL cx no growth
   Imaging: U/S: No evidence of a distended GB to suggest cholecystitis
   (GB is not well visualized; likely contracted). No h/o cholecystectomy
   could be elicited from CareWeb
   Labs / Radiology
   388 K/uL
   8.6 g/dL
   116 mg/dL
   4.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   93 mg/dL
   103 mEq/L
   135 mEq/L
   24.7 %
   9.7 K/uL
        [image002.jpg]
                            [**2187-11-13**]  10:30 AM
                            [**2187-11-13**]  11:47 AM
                            [**2187-11-13**]  01:11 PM
                            [**2187-11-13**]  10:00 PM
                            [**2187-11-14**]  04:15 AM
                            [**2187-11-14**]  03:11 PM
                            [**2187-11-15**]  03:02 AM
                            [**2187-11-15**]  03:29 AM
                            [**2187-11-15**]  07:29 PM
                            [**2187-11-16**]  03:50 AM
   WBC
   11.9
   11.3
   9.1
   9.7
   Hct
   27.0
   25.4
   24.8
   25.9
   24.7
   Plt
   [**Telephone/Fax (3) 1840**]88
   Cr
   4.0
   4.4
   4.9
   TCO2
   23
   22
   18
   19
   18
   Glucose
   104
   106
   116
   Other labs: PT / PTT / INR:14.5/37.0/1.3, CK / CKMB / Troponin-T:360//,
   ALT / AST:86/44, Alk Phos / T Bili:356/2.8, Amylase / Lipase:112/397,
   Differential-Neuts:79.3 %, Band:5.0 %, Lymph:13.1 %, Mono:2.2 %,
   Eos:5.1 %, D-dimer:4785 ng/mL, Fibrinogen:608 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.6 g/dL, LDH:400 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
   52F with OCD (stable recently, but h/o OD, anorexia and alcohol use in
   past), ileostomy, with resolving fulminant liver failure, renal
   failure, hypoxic respiratory failure and intracranial hemorrhage.
   .
   # Respiratory failure: Likely multifactorial in etiology including ARDS
   / pulmonary edema / pleural effusions. CT confirms ground glass
   opacties and potential overlying infection with background pleural
   effusions. Had bronchoscopy yesterday which is negative to date.
   Appearance of fluid c/w possible DAH. CXR this am overall improved with
   increased aeration likely partly because dialyzed, negative 4.5 liters.
   UOP has also picked up recently. Currently on minimal vent settings,
   essentially tolerating SBT overnight
   - Monitor I/Os via dialyis and diuresis. Goal negative 1L. Try to
   minimize input given no HD access and pulm status much improved with
   net negative
   - F/U sputum, BAL cultures
   - Extubate today
   - Holding ABx for now given no obvious infectious process
   .
   # Renal Failure: Cr 3.7 now after HD yesterday. Etiology remains
   unclear. DDx includes ATN, pre-renal, less likely AIN given negative.
   UOP has improved. Renal following closely, will try to hold off on
   dialysis to give line holiday until MOnday
   - F/U renal recs
   - dialysis Monday unless needs more acutely but no HD access
   .
   # Fevers: patient spiked fever overnight.  [**Month (only) 8**] have been [**3-3**] bronch.
   WBC trending down from peak 25 to 9.7.  Sources still include line
   infections (Central, Dialysis Line, A-Line) UTI, lines, PNA, acalculus
   cholecystitis and and.meningitis. No evidence of infection on LP or BAL
   making pneumonia, meningitis less likely. Nursing stated that dialysis
   line had small amount of drainage this AM. Holding Abx. Less likely
   drug fever given that precipitants have been pulled off. (Vanc / Zosyn
   / Fluc). Will need to follow fever curve since fever overnight may have
   been [**3-3**] bronch.
   - discussed with renal regarding potential replacement of dialysis
   line, will try to hold off until Monday to give line holiday.
   - pulled Central, HD, arterial line
   - hold of on abx
   - F/U culture results
   - trend CBC and
   - trending lipase/amylse (decreasing)
   - trending LFTs, US not c/w cholecystitis but GB not visualized
   - Stool Studies sent
   .
   # ECG changes: Pt noted to have diffuse TWI on ECG this am. No recent
   priors available for comparison. No TWI on [**10-30**]. TWI do not correlate
   with vascular territory and do not think are [**3-3**] cardiac ischemia. More
   likely cerebral TWI given h/o hemorrhage. Will trend biomarkers to R/O
   MI, follow serial ECGs, hold off on treatment for now (ASA, plavix,
   beta blocker, PRBC) although clinical suspicion low.
   -          F/U* cardiac enzymes (Trop may be elevated in rebnal
   failure)
   -          Follow ECGs
   -          Defer treatment ACS for now since clinical suspicion low
   -
   # Metabolic acidosis with Resp compensation: Bicarb 20 today up from
   17. Metabolic acidosis is likely secondary to ostomy drainage and
   bicarb loss, ARF also may be contributing. Small gap remains possibly
   [**3-3**] uremia. Loperamide given to decrease ostomy output, also banana
   flakes added to TF
   -          Serial Chemistries
   .
   # Hepatic Failure: Resolving. Hepatology following.
   - Trending LFT's
   .
   # Right frontal subcortical hemorrhage/ Edema: [**3-3**] intracranial bolt
   and coagulopathy. Stable Head CT .
   - on keppra for 10 day course starting [**11-8**]
   - Keeping PLT>100 per neurosurgery
   .
   # Thrombocytopenia: review by hematology and thought to be secondary to
   alloimmunization and possible hypersplenism
   - Resolved
   .
   # Drug Rash: Resolved. Thought to be [**3-3**] Zosyn but Vanc or fluconazole
   also possible
   .
   # Anemia: has been running 25-30, iron/ TIBC ratio 17% indicating mild
   iron deficiency. Hct 24.8
   - follow HCT's, stable
   - Transfuse <21 or 25 if signs of end organ ischemia
   - iron supplements
   .
   # Access: Will d/c SC, A-Line, HD cath. Place peripherals.
   .
   # FEN: replete lytes prn, tube feeds via dobhoff (adjusted today). Try
   to minimize TFs and K since no HD access until probably Monday
   # PPx: subq heparin, lansoprazole
   # Access: PIV
   # Code: full
   # Communication: With husband, pt
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 1465**] Renal ([**4-3**]) - [**2187-11-15**] 05:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-31**] 10:00 AM
   Multi Lumen - [**2187-11-3**] 09:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-16 10:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2187-11-15**] 10:00 AM
   US of liver.
 BRONCHOSCOPY - At [**2187-11-15**] 01:57 PM
 LUMBAR PUNCTURE - At [**2187-11-15**] 02:30 PM
 ARTERIAL LINE - STOP [**2187-11-15**] 04:04 PM
 BLOOD CULTURED - At [**2187-11-16**] 03:50 AM
   1 set from the left sc tlcl abd another set from the left femerol
   dialysis catheter.
 BLOOD CULTURED - At [**2187-11-16**] 03:50 AM
   from left sc tlcl
 EKG - At [**2187-11-16**] 06:30 AM
   routine
 EKG - At [**2187-11-16**] 06:30 AM
   routine for st deviations noted in multiple leads.
 FEVER - 101.8
F - [**2187-11-15**] 06:00 PM
   Remains intubated, mechanically ventilated.
   Tolerated HD yesterday.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Liver Failure;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2187-11-16**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-11-16**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37
C (98.6
   HR: 103 (89 - 130) bpm
   BP: 114/65(78) {106/62(74) - 134/78(91)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 39 kg (admission): 37 kg
   Height: 57 Inch
   CVP: 1 (-2 - 4)mmHg
   Total In:
                                                                    988 mL
                                                                    505 mL
   PO:
   TF:
                                                                    888 mL
                                                                    355 mL
   IVF:
   Blood products:
   Total out:
                                                                  5,615 mL
                                                                    655 mL
   Urine:
                                                                  1,765 mL
                                                                    505 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -4,627 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (433 - 544) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, ileostomy
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   388 K/uL
   92 mg/dL
   3.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   69 mg/dL
   100 mEq/L
   133 mEq/L
   24.7 %
   9.7 K/uL
        [image002.jpg]
                            [**2187-11-13**]  10:30 AM
                            [**2187-11-13**]  11:47 AM
                            [**2187-11-13**]  01:11 PM
                            [**2187-11-13**]  10:00 PM
                            [**2187-11-14**]  04:15 AM
                            [**2187-11-14**]  03:11 PM
                            [**2187-11-15**]  03:02 AM
                            [**2187-11-15**]  03:29 AM
                            [**2187-11-15**]  07:29 PM
                            [**2187-11-16**]  03:50 AM
   WBC
   11.9
   11.3
   9.1
   9.7
   Hct
   27.0
   25.4
   24.8
   25.9
   24.7
   Plt
   [**Telephone/Fax (3) 1840**]88
   Cr
   4.0
   4.4
   4.9
   3.7
   TropT
   0.14
   TCO2
   23
   22
   18
   19
   18
   Glucose
   104
   106
   116
   92
   Other labs: PT / PTT / INR:14.2/61.0/1.2, CK / CKMB /
   Troponin-T:19//0.14, ALT / AST:80/49, Alk Phos / T Bili:363/2.3,
   Amylase / Lipase:112/397, Differential-Neuts:79.3 %, Band:5.0 %,
   Lymph:13.1 %, Mono:2.2 %, Eos:5.1 %, D-dimer:4785 ng/mL, Fibrinogen:608
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:420 IU/L, Ca++:8.7
   mg/dL, Mg++:1.7 mg/dL, PO4:5.2 mg/dL
   ECG: Diffuse ECG T-wave inversions (new since [**2187-10-30**].
   Assessment and Plan
   s/p hepatic failure, complicated by respiratory failure, renal failure.
   RESPIRATORY FAILURE -- Multifactorial, persistent, but appears
   improved.  Radiograph demonstrates clearing of diffuse infiltrates.
   Hope to work towards SBT, hopefully work towards extubation trial.
   HEPATIC FAILURE -- resolving.  Continue to monitor.
   RENAL FAILURE -- attributed to ATN.  Some improvement in urine output.
   tolerating HD.
   ENCEPHALOPATHY -- s/p elevated ICP due to hepatic failure.  Unclear as
   to extent of CNS injury.  Will need to better assess once extubated.
   NUTRITIONAL SUPPORT
 TF.
   FEVERS -- last elevation following bronchoscopy.  Multiple possible
   sources, evaltuation in progress.  Hope to d/c all lines.
   SEIZURES -- on prophylactic [**Doctor Last Name **] with recent ICP bolt.
   FLUIDS -- continue to desire net negative.
   ICU Care
   Nutrition:
   Nutren Renal ([**4-3**]) - [**2187-11-15**] 05:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-31**] 10:00 AM
   Multi Lumen - [**2187-11-3**] 09:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Discussed progress with husband.
   [**Name (NI) 156**] status: Full code
   Disposition :  ICU
   Total time spent: 55

2187-11-17 04:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Extubated 11 am
   -Pulled femoral HD line. Renal planning to place HD catheter and
   dialyze monday if needs it
   -ECG in am had diffuse TWI, but thought to be cerebral. CEs neg x 3
   (trop elevated but has renal failure and CEs flat)
   -Could not place PIVs so still has SC TLC
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Liver Failure;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-17**] 04:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 103 (90 - 108) bpm
   BP: 126/73(85) {110/58(72) - 126/76(85)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 39 kg (admission): 37 kg
   Height: 57 Inch
    CVP: 2 (2 - 6)mmHg
   Total In:
                                                                  1,300 mL
                                                                    109 mL
   PO:
   TF:
                                                                    780 mL
                                                                    109 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    470 mL
   Urine:
                                                                  1,165 mL
                                                                    320 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -215 mL
                                                                   -362 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (544 - 544) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Intubated. Thin, cachectic appearing woman laying
   in bed in NAD
   Eyes / Conjunctiva: PERRL, 3mm
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: DP/PT 2+ BL
   Respiratory / Chest: (Expansion: Symmetric), Coarse BS bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present. Ileostomy in place
   Extremities: Right: 2+, Left: 2+. Left femoral cath with oozing
   Skin:  Not assessed, Rash: , Jaundice.
   Neurologic: Tracks with eyes
   Labs / Radiology
   518 K/uL
   8.6 g/dL
   96 mg/dL
   4.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   90 mg/dL
   102 mEq/L
   135 mEq/L
   24.2 %
   10.6 K/uL
        [image002.jpg]
                            [**2187-11-13**]  10:00 PM
                            [**2187-11-14**]  04:15 AM
                            [**2187-11-14**]  03:11 PM
                            [**2187-11-15**]  03:02 AM
                            [**2187-11-15**]  03:29 AM
                            [**2187-11-15**]  07:29 PM
                            [**2187-11-16**]  03:50 AM
                            [**2187-11-16**]  11:28 AM
                            [**2187-11-16**]  05:52 PM
                            [**2187-11-17**]  03:34 AM
   WBC
   11.9
   11.3
   9.1
   9.7
   10.6
   Hct
   27.0
   25.4
   24.8
   25.9
   24.7
   24.2
   Plt
   [**Telephone/Fax (3) 1840**]88
   518
   Cr
   4.0
   4.4
   4.9
   3.7
   4.1
   TropT
   0.14
   0.11
   0.11
   TCO2
   19
   18
   Glucose
   104
   106
   116
   92
   96
   Other labs: PT / PTT / INR:12.8/24.9/1.1, CK / CKMB /
   Troponin-T:18//0.11, ALT / AST:64/37, Alk Phos / T Bili:312/2.0,
   Amylase / Lipase:112/397, Differential-Neuts:79.3 %, Band:5.0 %,
   Lymph:13.1 %, Mono:2.2 %, Eos:5.1 %, D-dimer:4785 ng/mL, Fibrinogen:608
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:420 IU/L, Ca++:8.7
   mg/dL, Mg++:1.7 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   52F with OCD (stable recently, but h/o OD, anorexia and alcohol use in
   past), ileostomy, with resolving fulminant liver failure, renal
   failure, hypoxic respiratory failure and intracranial hemorrhage.
   .
   # Respiratory failure: Likely multifactorial in etiology including ARDS
   / pulmonary edema / pleural effusions. CT confirms ground glass
   opacties and potential overlying infection with background pleural
   effusions. Had bronchoscopy yesterday which is negative to date.
   Appearance of fluid c/w possible DAH. CXR this am overall improved with
   increased aeration likely partly because dialyzed, negative 4.5 liters.
   UOP has also picked up recently. Currently on minimal vent settings,
   essentially tolerating SBT overnight
   - Monitor I/Os via dialyis and diuresis. Goal negative 1L. Try to
   minimize input given no HD access and pulm status much improved with
   net negative
   - F/U sputum, BAL cultures
   - Extubate today
   - Holding ABx for now given no obvious infectious process
   .
   # Renal Failure: Cr 3.7 now after HD yesterday. Etiology remains
   unclear. DDx includes ATN, pre-renal, less likely AIN given negative.
   UOP has improved. Renal following closely, will try to hold off on
   dialysis to give line holiday until MOnday
   - F/U renal recs
   - dialysis Monday unless needs more acutely but no HD access
   .
   # Fevers: patient spiked fever overnight.  [**Month (only) 8**] have been [**3-3**] bronch.
   WBC trending down from peak 25 to 9.7.  Sources still include line
   infections (Central, Dialysis Line, A-Line) UTI, lines, PNA, acalculus
   cholecystitis and and.meningitis. No evidence of infection on LP or BAL
   making pneumonia, meningitis less likely. Nursing stated that dialysis
   line had small amount of drainage this AM. Holding Abx. Less likely
   drug fever given that precipitants have been pulled off. (Vanc / Zosyn
   / Fluc). Will need to follow fever curve since fever overnight may have
   been [**3-3**] bronch.
   - discussed with renal regarding potential replacement of dialysis
   line, will try to hold off until Monday to give line holiday.
   - pulled Central, HD, arterial line
   - hold of on abx
   - F/U culture results
   - trend CBC and
   - trending lipase/amylse (decreasing)
   - trending LFTs, US not c/w cholecystitis but GB not visualized
   - Stool Studies sent
   .
   # ECG changes: Pt noted to have diffuse TWI on ECG this am. No recent
   priors available for comparison. No TWI on [**10-30**]. TWI do not correlate
   with vascular territory and do not think are [**3-3**] cardiac ischemia. More
   likely cerebral TWI given h/o hemorrhage. Will trend biomarkers to R/O
   MI, follow serial ECGs, hold off on treatment for now (ASA, plavix,
   beta blocker, PRBC) although clinical suspicion low.
   -          F/U* cardiac enzymes (Trop may be elevated in rebnal
   failure)
   -          Follow ECGs
   -          Defer treatment ACS for now since clinical suspicion low
   -
   # Metabolic acidosis with Resp compensation: Bicarb 20 today up from
   17. Metabolic acidosis is likely secondary to ostomy drainage and
   bicarb loss, ARF also may be contributing. Small gap remains possibly
   [**3-3**] uremia. Loperamide given to decrease ostomy output, also banana
   flakes added to TF
   -          Serial Chemistries
   .
   # Hepatic Failure: Resolving. Hepatology following.
   - Trending LFT's
   .
   # Right frontal subcortical hemorrhage/ Edema: [**3-3**] intracranial bolt
   and coagulopathy. Stable Head CT .
   - on keppra for 10 day course starting [**11-8**]
   - Keeping PLT>100 per neurosurgery
   .
   # Thrombocytopenia: review by hematology and thought to be secondary to
   alloimmunization and possible hypersplenism
   - Resolved
   .
   # Drug Rash: Resolved. Thought to be [**3-3**] Zosyn but Vanc or fluconazole
   also possible
   .
   # Anemia: has been running 25-30, iron/ TIBC ratio 17% indicating mild
   iron deficiency. Hct 24.8
   - follow HCT's, stable
   - Transfuse <21 or 25 if signs of end organ ischemia
   - iron supplements
   .
   # Access: Will d/c SC, A-Line, HD cath. Place peripherals.
   .
   # FEN: replete lytes prn, tube feeds via dobhoff (adjusted today). Try
   to minimize TFs and K since no HD access until probably Monday
   # PPx: subq heparin, lansoprazole
   # Access: PIV
   # Code: full
   # Communication: With husband, pt
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-11-3**] 09:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-18 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NS at 75 for 500cc
   Renal recs included holding the HD and d/c-ing free water infusions.
   Surgery to follow QOD.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Liver Failure;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-11-18**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-18**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 102 (73 - 107) bpm
   BP: 122/68(80) {101/49(63) - 132/75(84)} mmHg
   RR: 35 (15 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 39 kg (admission): 37 kg
   Height: 57 Inch
    CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  1,254 mL
                                                                    805 mL
   PO:
   TF:
                                                                    724 mL
                                                                    189 mL
   IVF:
                                                                    456 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    440 mL
   Urine:
                                                                  1,730 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -626 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: Intubated. Thin, cachectic appearing woman laying
   in bed in NAD, denies feeling any pain.
   Eyes / Conjunctiva: PERRL, 3mm
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, unable to
   speak.
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: DP/PT 2+ BL
   Respiratory / Chest: (Expansion: Symmetric), Coarse BS bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present. Ileostomy in place
   Extremities: Right: 2+, Left: 2+.
   Skin:  Not assessed, Rash: , Jaundice.
   Neurologic: Tracks with eyes, oriented, follows commands and
   conversation, but is unable to speak.
   Labs / Radiology
   633 K/uL
   8.6 g/dL
   96 mg/dL
   3.9 mg/dL
   18 mEq/L
   4.0 mEq/L
   101 mg/dL
   104 mEq/L
   138 mEq/L
   23.8 %
   12.9 K/uL
        [image002.jpg]
                            [**2187-11-14**]  04:15 AM
                            [**2187-11-14**]  03:11 PM
                            [**2187-11-15**]  03:02 AM
                            [**2187-11-15**]  03:29 AM
                            [**2187-11-15**]  07:29 PM
                            [**2187-11-16**]  03:50 AM
                            [**2187-11-16**]  11:28 AM
                            [**2187-11-16**]  05:52 PM
                            [**2187-11-17**]  03:34 AM
                            [**2187-11-18**]  04:05 AM
   WBC
   11.9
   11.3
   9.1
   9.7
   10.6
   12.9
   Hct
   27.0
   25.4
   24.8
   25.9
   24.7
   24.2
   23.8
   Plt
   [**Telephone/Fax (3) 1840**]88
   518
   633
   Cr
   4.0
   4.4
   4.9
   3.7
   4.1
   3.9
   TropT
   0.14
   0.11
   0.11
   0.09
   TCO2
   18
   Glucose
   104
   106
   116
   92
   96
   96
   Other labs: PT / PTT / INR:12.9/34.1/1.1, CK / CKMB /
   Troponin-T:26//0.09, ALT / AST:69/44, Alk Phos / T Bili:325/1.9,
   Amylase / Lipase:112/397, Differential-Neuts:79.3 %, Band:5.0 %,
   Lymph:13.1 %, Mono:2.2 %, Eos:5.1 %, D-dimer:4785 ng/mL, Fibrinogen:608
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:420 IU/L, Ca++:9.0
   mg/dL, Mg++:1.8 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   52F with OCD, ileostomy, with resolving fulminant liver failure [**3-3**]
   tylenol OD, renal failure, resolving hypoxic respiratory failure and
   intracranial hemorrhage.
   .
   # Respiratory failure: Now extubated and sating well on 2L. UOP has
   also picked up recently in setting of prior fluid overload likely [**3-3**]
   ATN.  Pt remains afebrile not on abx.
   - Monitor I/Os via diuresis. Goal negative 1L. Try to minimize input
   given no HD access and pulm status much improved with net negative.
   - F/u renal recs to hold HD as of [**11-17**] and will reassess need for HD
   on Monday.
   - F/U sputum, BAL cultures
   - Holding ABx for now given no obvious infectious process and has
   remained afebrile
   .
   # Renal Failure: Cr 4.1. Likely ATN. UOP has improved. Renal following
   closely, will try to hold off on dialysis to give line holiday until
   MOnday
   - F/U renal recs
   - dialysis Monday unless needs more acutely but no HD access
   .
   # Previous Fevers: Afebrile overnight. WBC stable.  Source was
   potentially dialysis line.  Still has Central, Dialysis Line, A-Line.
   UTI, lines, PNA. Acalculus cholecystitis and.meningitis ruled out
   yesterday. Holding Abx.
   - discussed with renal regarding potential replacement of dialysis
   line, will try to hold off until Monday to give line holiday.
   - Pulled arterial line and femoral HD line.
   - Hold of on abx
   - F/U culture results
   - Trending LFTs, US not c/w cholecystitis but GB not visualized
   - Stool Studies sent
   .
   # ECG changes: Diffuse TWI on ECGs. DDx includes Cerebral in etiology.
   No recent priors available for comparison. TWI do not correlate with
   vascular territory and do not think are [**3-3**] cardiac ischemia. Cardiac
   Markers Negative.  Holding off on treatment for now (ASA, plavix, beta
   blocker, PRBC)
   - No current interventions
   # Metabolic acidosis with Resp compensation: Bicarb 18 down from 20.
   Metabolic acidosis is likely secondary to ostomy drainage and bicarb
   loss. ARF also may be contributing.
   - Discontinued the Banana flakes in the TF as they were contributing to
   a nearly blocked ileostomy.
   - Considering adding Metamucil instead.
   - Serial Chemistries
   .
   # Hepatic Failure: Resolving. Hepatology following.
   - Trending LFT's
   .
   # Right frontal subcortical hemorrhage/ Edema: [**3-3**] intracranial bolt
   and coagulopathy. Stable Head CT .
   -  on keppra for 10 day course starting [**11-8**]
   -  Keeping PLT>100 per neurosurgery
   .
   # Thrombocytopenia: review by hematology and thought to be secondary to
   alloimmunization and possible hypersplenism
   - Resolved
   .
   # Drug Rash: Resolved. Thought to be [**3-3**] Zosyn but Vanc or fluconazole
   also possible
   - resolved.
   .
   # Anemia: Stable but lower at Hct 24.2. has been running 25-30, iron/
   TIBC ratio 17% indicating mild iron deficiency.
   - follow HCT's, stable
   - Transfuse <21 or 25 if signs of end organ ischemia
   - iron supplements
   .
   # Access: Subclavian, A-Line.
   .
   # FEN: replete lytes prn, tube feeds via dobhoff at goal. Try to
   minimize TFs and K since no HD access until probably Monday
   # PPx: subq heparin, lansoprazole
   # Code: full
   # Communication: With husband, pt
   ICU [**Name (NI) 151**]
   Lines:
   Multi Lumen - [**2187-11-3**] 09:05 AM